US05925636
7-Methoxy-2-[(Pyridin-4-yl)carbonyl]benzofuran
Sodium hydroxide (1.22 g) was added to a solution of o-vanillin (2.11 g) in ethanol (50 ml) at 55° C. under a nitrogen atmosphere. The reaction mixture was stirred for 10 minutes to give a yellow suspension. 4-(Bromoacetyl)pyridine hydrobomide (5 g) was then added portionwise and the solution heated at 55° C. for 12 h, then at 65-70° C. for a further 12 h. The reaction mixture was cooled to room temperature and the solvent removed in vacuo. The residue was partitioned between water (250 ml, containing sodium hydroxide (0.5 g)) and dichloromethane (2×200 ml). The combined organic phases were washed with water (100 ml), dried over magnesium sulphate, filtered and evaporated in vacuo onto silica gel. The compound was washed through a pad of silica with ethyl acetate, the ethyl acetate was removed in vacuo and the residue azeotroped with hexane. The resulting solid was washed with hexane and filtered to furnish the title compound (0.95 g) as a yellow solid. TLC Rf 0.53 (ethyl acetate)

reactant | Sodium hydroxide | 1.22 g | [OH-].[Na+]
reactant | o-vanillin | 2.11 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | 4-(Bromoacetyl)pyridine | 5 g | BrCC(=O)C1=CC=NC=C1 | C7H6BrNO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-Methoxy-2-[(Pyridin-4-yl)carbonyl]benzofuran | 0.95 g | COC1=CC=CC=2C=C(OC21)C(=O)C2=CC=NC=C2 | C15H11NO3
